US06855710B2
(Z)-3-[1-(3-carboxymetylaminocarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 8 from (Z)-3-[1-(3-ethoxycarbonylmethylaminocarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone and sodium hydroxide solution in ethanol.

reactant | (Z)-3-[1-(3-ethoxycarbonylmethylaminocarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(C)OC(=O)CNC(=O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C26H23N3O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (Z)-3-[1-(3-carboxymetylaminocarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(=O)(O)CNC(=O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H19N3O4
